US07442698B2
A resealable tube was charged with the benzyl-(2-chloropyrimidin-4-yl)carbamic acid 2,6-dimethylphenyl ester (0.093 g, 0.253 mmol), 4-(2-dimethylaminoethoxy)-phenylamine (0.050 g, 0.278 mmol), and isopropanol (4 mL). Trifluoroacetic acid (0.072 g, 0.049 mL, 0.633 mmol) was added and the system was flushed with argon. The tube was sealed and the mixture was heated at 100° C. for 20 h. The reaction mixture was cooled to room temperature and concentrated to afford a pale purple oil. The oil was purified via column chromatography (gradient elution with 0-100% dichloromethane-(90: 10:1, dichloromethane/methanol/ammonium hydroxide)) to afford 2,6-dimethylphenyl 2-((4-((2-(dimethylamino)ethyl)oxy)phenyl)amino)-4-pyrimidinyl(phenylmethyl)carbamate as a white solid. MS (MH+) 512.3; Calculated 511.62 for C30H33N5O3.

reactant | benzyl-(2-chloropyrimidin-4-yl)carbamic acid 2,6-dimethylphenyl ester | 0.253 mmol, 0.093 g | CC1=C(C(=CC=C1)C)OC(N(C1=NC(=NC=C1)Cl)CC1=CC=CC=C1)=O | C20H18ClN3O2
reactant | 4-(2-dimethylaminoethoxy)-phenylamine | 0.278 mmol, 0.050 g | CN(CCOC1=CC=C(C=C1)N)C | C10H16N2O
reactant | Trifluoroacetic acid | 0.633 mmol, 0.049 mL, 0.072 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | 2,6-dimethylphenyl 2-((4-((2-(dimethylamino)ethyl)oxy)phenyl)amino)-4-pyrimidinyl(phenylmethyl)carbamate | CN(CCOC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C(OC1=C(C=CC=C1C)C)=O)CC1=CC=CC=C1)C | C30H33N5O3
